US07223791B2
To a mixture of 4-[5-(4-trifluoromethylphenyl)-1,2,4-oxadiazol-3-yl]benzaldehyde (1.30 g), sodium dihydrogen phosphate (0.51 g), 2-methyl-2-butene (1.3 ml), water (15 ml), t-butanol (15 ml) and tetrahydrofuran (30 ml) was slowly added sodium chlorite (0.75 g) at 0° C., and the mixture was stirred for 2 hrs. To the reaction mixture was added conc. hydrochloric acid (3 ml), and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The obtained colorless crystals were recrystallized from tetrahydrofuran-hexane to give 4-[5-(4-trifluoromethylphenyl)-1,2,4-oxadiazol-3-yl]benzoic acid (1.21 g, yield 89%). melting point: 286–287° C.

reactant | 4-[5-(4-trifluoromethylphenyl)-1,2,4-oxadiazol-3-yl]benzaldehyde | 1.30 g | FC(C1=CC=C(C=C1)C1=NC(=NO1)C1=CC=C(C=O)C=C1)(F)F | C16H9F3N2O2
reactant | sodium dihydrogen phosphate | 0.51 g | P(=O)(O)(O)[O-].[Na+]
reactant | 2-methyl-2-butene | 1.3 ml | CC(C)=CC | C5H10
reactant | sodium chlorite | 0.75 g | Cl(=O)[O-].[Na+]
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | t-butanol | 15 ml | C(C)(C)(C)O | C4H10O
solvent | water | 15 ml | O | H2O
product | 4-[5-(4-trifluoromethylphenyl)-1,2,4-oxadiazol-3-yl]benzoic acid | 1.21 g, yield 89% | FC(C1=CC=C(C=C1)C1=NC(=NO1)C1=CC=C(C(=O)O)C=C1)(F)F | C16H9F3N2O3
